US07112698B2
(E)-1-(4-ethoxyphenyl)-3-(3,5-dimethoxyphenyl)prop-1-en-3-one (DMU-174)
To a stirred solution of 4-ethoxybenzaldehyde (1.0 g, 6.6 mmol) and 3,5-dimethoxyacetophenone (1.19 g, 6.6 mmol) in methanol (10 ml) was added 50% w/v of aqueous sodium hydroxide (5.3 ml, 0.06 mol). The reaction mixture was stirred for 2 h at room temperature and then extracted with ethyl acetate (3×20 ml). The combined organic layers were dried over magnesium sulphate and reduced in vacuo and the product was recrystallised from ethanol to give 1.12 g (74%) of yellow crystals. 1H-NMR (CDCl3) δ 7.8 (d, 1H), 7.6 (d, 2H), 7.3 (d, 1H), 7.15 (d, 2H), 6.9 (d, 2H), 6.65 (t, 1H), 4.0 (q, 2H), 3.8 (s, 6H), 1.4 (t, 3H). 13C-NMR (CDCl3) δ 190.1, 161.1, 160.8, 140.6, 127.4, 63.6. Mass Spectrum m/e (M+1) 313.

reactant | 4-ethoxybenzaldehyde | 6.6 mmol, 1.0 g | C(C)OC1=CC=C(C=O)C=C1 | C9H10O2
reactant | 3,5-dimethoxyacetophenone | 6.6 mmol, 1.19 g | CC(=O)C1=CC(=CC(=C1)OC)OC | C10H12O3
reactant | sodium hydroxide | 0.06 mol, 5.3 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | (E)-1-(4-ethoxyphenyl)-3-(3,5-dimethoxyphenyl)prop-1-en-3-one | 1.12 g, 74% | C(C)OC1=CC=C(C=C1)\C=C\C(=O)C1=CC(=CC(=C1)OC)OC | C19H20O4
